US07501406B2
b) 5-Chloro-thiophene-2-sulfonic acid [(R)-1-(2,4-dimethoxy-benzyl)-5,5-difluoro-2-oxo-azepan-3-yl]-(6-methoxy-pyridin-3-ylmethyl)-amide
5-Chloro-thiophene-2-sulfonic acid [(R)-1-(2,4-dimethoxy-benzyl)-5,5-difluoro-2-oxo-azepan-3-yl]-amide (0.20 g, 0.40 mmol), (6-methoxy-pyridin-3-yl)-methanol (0.07 g, 0.48 mmol), triphenyl phosphine (0.22 g, 0.80 mmol) were dissolved in dry THF (15 ml) at 0-5° C. (ice-water bath) under an argon atmosphere followed by the dropwise addition of diisopropyl azodicarboxylate (0.16 ml, 0.80 mmol) in dry THF (1.5 ml). The reaction mixture was further stirred for 1 h at r.t. and then concentrated under reduced pressure. The crude oil was purified over silica gel (first: heptane-ethylacetate, 97:3-0:100; second: dichloromethane-methanol, 98:2-90:10): white solid 0.19 g (53%);

reactant | 5-Chloro-thiophene-2-sulfonic acid [(R)-1-(2,4-dimethoxy-benzyl)-5,5-difluoro-2-oxo-azepan-3-yl]-amide | 0.40 mmol, 0.20 g | COC1=C(CN2C([C@@H](CC(CC2)(F)F)NS(=O)(=O)C=2SC(=CC2)Cl)=O)C=CC(=C1)OC | C19H21ClF2N2O5S2
reactant | (6-methoxy-pyridin-3-yl)-methanol | 0.48 mmol, 0.07 g | COC1=CC=C(C=N1)CO | C7H9NO2
reactant | triphenyl phosphine | 0.80 mmol, 0.22 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.80 mmol, 0.16 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
product | 5-Chloro-thiophene-2-sulfonic acid [(R)-1-(2,4-dimethoxy-benzyl)-5,5-difluoro-2-oxo-azepan-3-yl]-(6-methoxy-pyridin-3-ylmethyl)-amide | COC1=C(CN2C([C@@H](CC(CC2)(F)F)N(S(=O)(=O)C=2SC(=CC2)Cl)CC=2C=NC(=CC2)OC)=O)C=CC(=C1)OC | C26H28ClF2N3O6S2
